US05380861
A 10 liter four-necked sulphonation flask, equipped with a mechanical stirrer, thermometer and gas inlet arrangement, is charged under argon with 692 g (3.2 mol) of 2-butyl 5-chloropyridine-2-carboxylate and 7 l of ethylene diamine and the clear solution obtained is stirred, whereby the internal temperature rises slowly from 22° to a maximum of 30° during the stirring. The course of the reaction is followed by gas chromatography. After a reaction period of 3 hours (the internal temperature still amounts to 27°) the reaction solution is evaporated at 30°-40° under reduced pressure. The evaporation residue--a clear, yellow oil--weighs 753 g. A 20 liter stirring vessel as well as two 5 liter separating funnels are charged with, respectively, 2.250 l of ice-cold 3N hydrochloric acid, 750 ml of 1.5N hydrochloric acid and 750 ml of deionized water. The evaporation residue (753 g of a clear, yellow oil) is subsequently treated with 1.500 l of methylene chloride and the solution obtained is added to the stirring vessel. After intermixing of the two phases the pH value of the aqueous phase amounts to about 1. Subsequently, the organic phase from the stirring vessel as well as two 1.5 l portions of methylene chloride are passed in sequence and with good intermixing through the stirring vessel and the two separating funnels. The aqueous phases are combined in the stirring vessel and adjusted to about pH 11 by the addition of 3 l of ice-cold 3N sodium hydroxide solution. The two separating funnels are charged with two 750 ml portions of semi-saturated sodium chloride solution. Then, in each case with good intermixing, six 1.5 l portions of methylene chloride are passed through the stirring vessel and the two separating funnels. The organic phases are combined and dried over 500 g of sodium sulphate. The drying agent is filtered off and the filtrate is evaporated at 30°-40° under reduced pressure. The yellow, oily residue is dried at 40°/0.1 Pa for a further 15 hours and thereafter weighs 616 g (3.08 mol). It crystallizes upon standing at 20°. The crystallizate is dissolved in 3.2 l of methanol at 20°. 688 ml of 4.48N methanolic hydrochloric acid (3.08 mol) are added in one portion to the solution while cooling in an ice bath. The reaction mixture is stirred for 15 minutes and the resulting suspension is subsequently heated to 50°, whereby a clear solution again results. Thereto there are added within 30 minutes 5.8 l of t-butyl methyl ether (pre-heated to 50°). The suspension obtained is left to cool to 20° (duration about 1.5 hours) and it is subsequently cooled to 0°-5° with an ice bath. The solid is subsequently filtered off and rinsed with 1.100 l of petroleum ether (low-boiling). The crystallizate is subsequently dried to constant weight at 40° in a vacuum drying oven and thereafter weighs 693 g (95% crystallization yield). For further purification, the crystallizate is heated to 55° in 3.6 l of methanol and dissolved. While stirring vigorously there are allowed to drop in within 1.5 hours 5.500 l of t-butyl methyl ether (pre-heated to 50°), whereby the mixture is seeded with pure crystals of the end product after the addition of 1.5 l of solvent. The suspension obtained is left to cool to about 20° (duration about 1.5 hours), whereupon it is cooled to 0°-5° with an ice bath. The crystallizate is filtered off and washed with 1.1 l of pentane. The N-(2-aminoethyl)-5-chloropyridine-2-carboxamide hydrochloride obtained is dried in a high vacuum at 50°/1 Pa for two days and thereafter weighs 665 g (87%), m.p. 197°-199°.

reactant | 2-butyl 5-chloropyridine-2-carboxylate | 3.2 mol, 692 g | ClC=1C=CC(=NC1)C(=O)OC(C)CC | C10H12ClNO2
reactant | ethylene diamine | 7 l | C(CN)N | C2H8N2
reactant | sodium chloride | [Cl-].[Na+]
reactant | hydrochloric acid | 3.08 mol, 4.48N, 688 ml | Cl | ClH
solvent | t-butyl methyl ether | 5.8 l | COC(C)(C)C | C5H12O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(2-aminoethyl)-5-chloropyridine-2-carboxamide hydrochloride | Cl.NCCNC(=O)C1=NC=C(C=C1)Cl | InChI=1S/C8H10ClN3O.ClH/c9-6-1-2-7(12-5-6)8(13)11-4-3-10;/h1-2,5H,3-4,10H2,(H,11,13);1H
